US07635715B2
Step E: Preparation of 1,1-Dimethylethyl N-((6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclobutane-1,1′-naphthalen]-3′-yl)carbonyl)glycinate
A mixture of ethyl 6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclobutane-1,1′-naphthalen]-3′-carboxylate (155 mg, 505 μmol) and glycine tert-butyl ester hydrochloride (102 mg, 606 μmol) were mixed in dioxane (4 mL). DIPEA (106 μL, 606 μmol) was added, and the reaction mixture was stirred at 75° C. for 3.5 hours. The reaction mixture was cooled to room temperature and concentrated in vacuo. The resulting yellow solid was purified by silica flash chromatography (0-50% DCM/hexane) to give the desired compound as a white solid (151 mg). MS (m/e)=336.1 (M+H-tBu)+.

reactant | ethyl 6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclobutane-1,1′-naphthalen]-3′-carboxylate | 505 μmol, 155 mg | ClC=1C=C2C(=C(C(C3(C2=CC1)CCC3)=O)C(=O)OCC)O | C16H15ClO4
reactant | glycine tert-butyl ester hydrochloride | 606 μmol, 102 mg | Cl.C(C)(C)(C)OC(CN)=O
reactant | DIPEA | 606 μmol, 106 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 1,1-Dimethylethyl N-((6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclobutane-1,1′-naphthalen]-3′-yl)carbonyl)glycinate | 151 mg | ClC=1C=C2C(=C(C(C3(C2=CC1)CCC3)=O)C(=O)NCC(=O)OC(C)(C)C)O | C20H22ClNO5
